US07632838B2
4-[(4-tert-butylphenyl)sulfonyl]-1-[2-(trifluoromethyl)phenyl]piperidine
Using the procedure from Example 7A, 4-[(4-tert-butylphenyl)sulfonyl]piperidine (100 mg, 0.36 mmol) was reacted with 2-bromobenzotrifluoride (59 μl, 0.43 mmol) to afford the title compound (26 mg), a white solid, in 17% yield.

reactant | 4-[(4-tert-butylphenyl)sulfonyl]piperidine | 0.36 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C15H23NO2S
reactant | 2-bromobenzotrifluoride | 0.43 mmol, 59 μl | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
product | 4-[(4-tert-butylphenyl)sulfonyl]-1-[2-(trifluoromethyl)phenyl]piperidine | 26 mg, 17% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C1=C(C=CC=C1)C(F)(F)F | C22H26F3NO2S
